US06569854B1
0.37 cm3 of N-methylpiperazine in solution in 5 cm3 of dioxane is added, under an argon atmosphere, to 0.50 g of (−)-trans-1,2-cyclohexanedicarboxylic anhydride in solution at −15° C. in 20 cm3 of dioxane. After 1.25 hours at 20° C., the reaction mixture is filtered, the solid is washed with 20 cm3 of diethyl ether, drained, and then dried under reduced pressure (2,7 kPa) at 20° C., to give 0.65 g of (1R, 2R)-2-[(4-methylpiperazin-1-yl)carbonyl]-1-cyclohexanecarboxylic acid in the form of a white solid.

reactant | N-methylpiperazine | 0.37 cm3 | CN1CCNCC1 | C5H12N2
reactant | (−)-trans-1,2-cyclohexanedicarboxylic anhydride | 0.50 g | [C@@H]12[C@H](CCCC1)C(=O)OC2=O | C8H10O3
solvent | dioxane | 5 cm3 | O1CCOCC1 | C4H8O2
solvent | dioxane | 20 cm3 | O1CCOCC1 | C4H8O2
product | (1R, 2R)-2-[(4-methylpiperazin-1-yl)carbonyl]-1-cyclohexanecarboxylic acid | 0.65 g | CN1CCN(CC1)C(=O)[C@H]1[C@@H](CCCC1)C(=O)O | C13H22N2O3
